** sch_path: /foss/designs/CHIP-PLL/PFD/PFD_tb.sch
**.subckt PFD_tb
x1 0 net1 CRef UP DOWN CVco PFD_cell
*connector(1,1) ?1 DOWN
*connector(1,1) ?1 UP
Vref CRef 0 dc 0 ac 0 pulse(0 {Vp} {T/2} 10n 10n {T/2} {T})
Vco CVco 0 dc 0 ac 0 pulse(0 {Vp} {dly} 10n 10n {T/2} {T})
Vp net1 0 dc {Vp}
**** begin user architecture code
 .lib cornerMOSlv.lib mos_tt



.param temp=27
.param T = 31.25u
.param dly=1u
.param Vp=0
.control
save all
tran 25n 400u
plot v(CRef) v(CVco) v(UP) v(DOWN)
meas tran pw_up avg v(UP) from=100u to=400u
meas tran pw_down avg v(DOWN) from=100u to=400u
write PFD_tb.raw
.endc


**** end user architecture code
**.ends

* expanding   symbol:  PFD_cell.sym # of pins=6
** sym_path: /foss/designs/CHIP-PLL/PFD/PFD_cell.sym
** sch_path: /foss/designs/CHIP-PLL/PFD/PFD_cell.sch
.subckt PFD_cell gnd vp cRef UP DOWN cVco
*.iopin gnd
*.iopin vp
*.iopin DOWN
*.iopin UP
*.ipin cRef
*.ipin cVco
XM1 1 cVco 2 gnd sg13_lv_nmos w=0.5u l=0.13u ng=1
XM2 1 DOWN 2 gnd sg13_lv_nmos w=0.5u l=0.13u ng=1
XM3 2 cRef gnd gnd sg13_lv_nmos w=0.25u l=0.13u ng=1
XM4 1 cRef vp vp sg13_lv_pmos w=0.75u l=0.13u ng=1
XM6 3 cRef 4 gnd sg13_lv_nmos w=0.5u l=0.13u ng=1
XM7 3 UP 4 gnd sg13_lv_nmos w=0.5u l=0.13u ng=1
XM8 4 cVco gnd gnd sg13_lv_nmos w=0.25u l=0.13u ng=1
XM9 3 cVco vp vp sg13_lv_pmos w=0.75u l=0.13u ng=1
x1 gnd vp UP pre_up PFD_buffor
x2 gnd vp DOWN pre_down PFD_buffor
XM5 1 cRef pre_up gnd sg13_lv_nmos w=0.75u l=0.13u ng=1
XM10 3 cVco pre_down gnd sg13_lv_nmos w=0.75u l=0.13u ng=1
.ends


* expanding   symbol:  PFD_buffor.sym # of pins=4
** sym_path: /foss/designs/CHIP-PLL/PFD/PFD_buffor.sym
** sch_path: /foss/designs/CHIP-PLL/PFD/PFD_buffor.sch
.subckt PFD_buffor gnd vp out in
*.iopin gnd
*.iopin vp
*.ipin in
*.iopin out
XM1 out_stage1 in gnd gnd sg13_lv_nmos w=0.3u l=0.13u ng=1
XM4 out_stage1 in vp vp sg13_lv_pmos w=0.4u l=0.13u ng=1
XM2 out out_stage1 gnd gnd sg13_lv_nmos w=0.6u l=0.13u ng=1
XM3 out out_stage1 vp vp sg13_lv_pmos w=0.6u l=0.13u ng=1
.ends

.end
